US04064257
In this preparation 1.0 mole of p-toluenesulfonyl chloride is dissolved in 700 ml. of pyridine at 0° C, under nitrogen, and then 0.5 mole of hex-5-yn-1-ol is added dropwise. The mixture is stirred for 2 hours and then 10 ml. of water is added slowly, keeping the temperature below 10° C. The pyridine is then removed by evaporation under vacuum and the residue poured into 1 liter of ethyl acetate, then washed twice with excess 2N aqueous hydrochloric acid, and then with water. The organic layer is separated and dried over anhydrous magnesium sulfate, filtered, and the filtrate then evaporated to dryness, under vacuum, affording hex-5-yn-1-ol tosylate.

reactant | p-toluenesulfonyl chloride | 1.0 mole | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | hex-5-yn-1-ol | 0.5 mole | C(CCCC#C)O | C6H10O
solvent | water | O | H2O
product | hex-5-yn-1-ol tosylate | S(=O)(=O)(C1=CC=C(C)C=C1)OCCCCC#C | C13H16O3S
